US06489440B1
To a stirred solution of 4-bromo-4′-hydroxybiphenyl (5.05 g, 20.2 mmol) in DMF (100 ml) were added K2CO3 (4.20 g, 30.4 mmol) and 1 -bromoheptane (4.14 ml, 26.4 mmol), and then the mixture was heated at 80° C. After being stirred at 80° C. for 20 h, the mixture was cooled to room temperature. The mixture was diluted with Et2O (250 ml) and then the solution was washed with sat. brine (150 ml×2). The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was recrystallized from CH2Cl2-petroleum ether to give 4-bromo-4′-heptyloxybiphenyl (6.21 g, 88%) as a white solid; FAB-MS: m/z 347[MH+].

reactant | 4-bromo-4′-hydroxybiphenyl | 20.2 mmol, 5.05 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | K2CO3 | 30.4 mmol, 4.20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1 -bromoheptane | 26.4 mmol, 4.14 ml | BrCCCCCCC | C7H15Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | Et2O | 250 ml | CCOCC | C4H10O
product | 4-bromo-4′-heptyloxybiphenyl | 6.21 g, 88% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC | C19H23BrO
